US06458780B1
1-(1,1-Dimethyl-1-butyloxycarbonyloxy)ethyl(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(7-methylthioimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate (A Mixture of Diastereomers)
A solution of 156.6 mg of 1-(1,1-dimethyl-1-butyloxycarbonyloxy)ethyl chloride in 2.0 ml of DMF was added to a suspension of 176.1 mg of silver iodide in 2.0 ml of DMF. The mixture was stirred in an argon atmosphere at room temperature for one hr. A solution of 200.0 mg of sodium(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(7-methylthio-imidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate in 1.0 ml of DMF was added thereto, followed by stirring for 3 hr. Water (10 ml) was added to the reaction solution to terminate the reaction. The system was extracted three times with 10 ml of ethyl acetate, followed by washing three times with 30 ml of semisaturated brine. The organic layer was dried over anhydrous magnesium sulfate and filtered. The residue was purified by chromatography on silica gel (chloroform:methanol=20:1) to give 82.3 mg of the title compound.

reactant | 1-(1,1-dimethyl-1-butyloxycarbonyloxy)ethyl chloride | 156.6 mg | CC(CCC)(OC(=O)OC(C)Cl)C | C9H17ClO3
reactant | sodium(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(7-methylthio-imidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 200.0 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)SC)C(=O)[O-])C1=O.[Na+]
reactant | Water | 10 ml | O | H2O
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
catalyst | silver iodide | 176.1 mg | [Ag]I
product | 1-(1,1-Dimethyl-1-butyloxycarbonyloxy)ethyl(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(7-methylthioimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 82.3 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)SC)C(=O)OC(C)OC(=O)OC(CCC)(C)C)C1=O | C25H33N3O7S2
